US03975528
Potassium diphenylmethyldithiocarbamate was prepared from diphenylmethyl isothiocyanate and potassium hydrosulfide in a t-butyl alcohol acetone mixture. A mixture of 29.7 g. of this salt, 26.1 g. of methylene bromide, and 10.1 g. of triethylamine in 200 ml. of dimethylformamide was stirred for about 1 hour keeping the initial reaction temperature below 30°C. by cooling. The mixture was poured into ice-water, partitioned into ethylene chloride, and gave 24.0 g. of crude product upon evaporation of the ethylene chloride. Purification by dry column chromatography on silica gel using 20% methylene chloride in hexane for developing gave 5.5 g. of solids which were recrystallized from isopropyl alcohol to give 4.4 g. of white crystals, m.p. 106.5°-107.5°C.

reactant | diphenylmethyl isothiocyanate | C1(=CC=CC=C1)C(C1=CC=CC=C1)N=C=S | C14H11NS
reactant | potassium hydrosulfide | [SH-].[K+]
reactant | t-butyl alcohol acetone | CC(=O)C.C(C)(C)(C)O
reactant | methylene bromide | C(Br)Br | CH2Br2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Potassium diphenylmethyldithiocarbamate | C1(=CC=CC=C1)C(C1=CC=CC=C1)NC([S-])=S.[K+] | InChI=1S/C14H13NS2.K/c16-14(17)15-13(11-7-3-1-4-8-11)12-9-5-2-6-10-12;/h1-10,13H,(H2,15,16,17);/q;+1/p-1
